US06989393B2
Raney nickel (38 g) was placed in a stainless steel bottle and EtOH (100 ml) was added followed by a solution of 2-(3-cyano-3-(3,4-dichlorophenyl)propyl)oxytetrahydropyran (138 g, 0.44 mol) in EtOH (1100 ml) and concentrated ammonium hydroxide (600 ml). The bottle was then shaken under an atmosphere of hydrogen gas (53 psi) and when the pressure fell below 35 psi the flask was repressurised. After 24 h the pressure remained constant so the reaction mixture was filtered through Celite™ and concentrated. Water was added, the mixture was extracted with DCM and then dried (Na2SO4) and concentrated to give 2-(3-(3,4-dichlorophenyl)-4-aminobutyl)oxytetrahydropyran as an oil (75 g, 0.24 mol).

reactant | 2-(3-cyano-3-(3,4-dichlorophenyl)propyl)oxytetrahydropyran | 0.44 mol, 138 g | C(#N)C(CCOC1OCCCC1)C1=CC(=C(C=C1)Cl)Cl | C15H17Cl2NO2
catalyst | Raney nickel | 38 g | [Ni] | Ni
solvent | EtOH | 1100 ml | CCO | C2H6O
solvent | ammonium hydroxide | 600 ml | [OH-].[NH4+]
solvent | EtOH | 100 ml | CCO | C2H6O
product | 2-(3-(3,4-dichlorophenyl)-4-aminobutyl)oxytetrahydropyran | 0.24 mol, 75 g | ClC=1C=C(C=CC1Cl)C(CCOC1OCCCC1)CN | C15H21Cl2NO2
